US07566724B2
To a solution of (E)-2-(2,6-dichlorobenzamido)-5-[4-(tetrahydro-4-(methoxymethyl)-2H-pyran-4-yl)phenyl]pent-4-enoic acid methyl ester (86 mg) in THF (1.7 ml), 0.1N aqueous sodium hydroxide solution (1.7 ml) was added, and the resulting mixture was stirred at room temperature for 2 hours. After washing the reaction solution with ether, aqueous layer was concentrated to obtain (E)-2-(2,6-dichlorobenzamido)-5-[4-(tetrahydro-4-(methoxymethyl)-2H-pyran-4-yl)phenyl]pent-4-enoic acid sodium salt (66 mg).

reactant | (E)-2-(2,6-dichlorobenzamido)-5-[4-(tetrahydro-4-(methoxymethyl)-2H-pyran-4-yl)phenyl]pent-4-enoic acid methyl ester | 86 mg | COC(C(C\C=C\C1=CC=C(C=C1)C1(CCOCC1)COC)NC(C1=C(C=CC=C1Cl)Cl)=O)=O | C26H29Cl2NO5
reactant | sodium hydroxide | 0.1N, 1.7 ml | [OH-].[Na+]
solvent | THF | 1.7 ml | C1CCOC1 | C4H8O
product | (E)-2-(2,6-dichlorobenzamido)-5-[4-(tetrahydro-4-(methoxymethyl)-2H-pyran-4-yl)phenyl]pent-4-enoic acid sodium salt | 66 mg | [Na+].ClC1=C(C(=O)NC(C(=O)[O-])C\C=C\C2=CC=C(C=C2)C2(CCOCC2)COC)C(=CC=C1)Cl | InChI=1S/C25H27Cl2NO5.Na/c1-32-16-25(12-14-33-15-13-25)18-10-8-17(9-11-18)4-2-7-21(24(30)31)28-23(29)22-19(26)5-3-6-20(22)27;/h2-6,8-11,21H,7,12-16H2,1H3,(H,28,29)(H,30,31);/q;+1/p-1/b4-2+;
